US07041696B2
Preparation of 4-(tert-Butyl-dimethyl-silanyloxy)-3-({6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carbonyl}-amino)-butyric acid:
A solution containing 4-(tert-Butyl-dimethyl-silanyloxy)-3-({6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carbonyl}-amino)-butyric acid benzyl ester (590 mg, 0.86 mmol) in MeOH (10 mL) is treated with 1N NaOH (2.5 mL) and stirred at rt for 12 hrs. The solution was poured into water, acidified to pH=3 with 10% citric acid, and extracted with EtOAc. The combined organic extracts are washed with brine and dried over Na2SO4. The solution is filtered and concentrated to yield 492 mg of desired product that was used without further purification. MS (ESI) 594 (M+1).

reactant | 4-(tert-Butyl-dimethyl-silanyloxy)-3-({6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carbonyl}-amino)-butyric acid benzyl ester | 0.86 mmol, 590 mg | C(C1=CC=CC=C1)OC(CC(CO[Si](C)(C)C(C)(C)C)NC(=O)C1CCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O)=O | C39H49N3O6Si
reactant | NaOH | 1N, 2.5 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(tert-Butyl-dimethyl-silanyloxy)-3-({6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carbonyl}-amino)-butyric acid | 492 mg | C(C)(C)(C)[Si](OCC(CC(=O)O)NC(=O)C1CCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O)(C)C | C32H43N3O6Si
